US07585885B2
5-Bromo-3-dibenzylamino-2-fluorobenzoic acid
Add dropwise a solution of dibenzyl-(5-bromo-2-fluorophenyl)-amine (4.00 g, 10.8 mmol) in THF (12 mL) to a solution of lithium diisopropylamide, freshly prepared by adding n-butyllithium (1.6 M in hexanes, 7.09 mL, 11.3 mmol) to diisopropylamine (1.74 mL, 12.4 mmol) in THF (25 mL) at −78° C. Stir the resulting yellow solution at −78 C for 45 min. Pour into a dry ice slurry containing about 100 g in dry THF (40 mL). Stir the solution until it reaches room temperature. Concentrate the solution and dissolve the residue in 10% aqueous potassium hydroxide solution (40 mL) and extract with diethyl ether (70 mL). Acidify the aqueous layer to about pH=3 with concentrated HCl. Extract the aqueous layer with diethyl ether (2×200 mL). Combine the organic layers and wash with water (150 mL), dry (magnesium sulfate) and concentrate to give the title compound as a solid (1.81 g, 40%).

reactant | dibenzyl-(5-bromo-2-fluorophenyl)-amine | 10.8 mmol, 4.00 g | C(C1=CC=CC=C1)N(C1=C(C=CC(=C1)Br)F)CC1=CC=CC=C1 | C20H17BrFN
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 11.3 mmol, 1.6 M, 7.09 mL | C(CCC)[Li]
reactant | diisopropylamine | 12.4 mmol, 1.74 mL | C(C)(C)NC(C)C | C6H15N
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-Bromo-3-dibenzylamino-2-fluorobenzoic acid | 1.81 g, 40% | BrC=1C=C(C(=C(C(=O)O)C1)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H17BrFNO2
